US08247415B2
2-[5-(methoxycarbonyl)-1H-1,2,3-triazol-1-yl]propanoic acid (i-73)
To a solution of 1.87 g (22.3 mmol) of methyl prop-2-ynoate in 40 mL of toluene was added 1.9 g (11 mmol) of tert-butyl 2-azidopropanate. The reaction mixture was heated at 100° C. for 3 h then cooled to ambient temperature. All volatiles were removed under reduced pressure and the crude residue purified by column chromatography on silica gel eluting with a 5 to 25% acetone in hexanes gradient to afford the title compounds.

reactant | methyl prop-2-ynoate | 22.3 mmol, 1.87 g | C(C#C)(=O)OC | C4H4O2
reactant | tert-butyl 2-azidopropanate | 11 mmol, 1.9 g | N(=[N+]=[N-])C(C(=O)OC(C)(C)C)C | C7H13N3O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(methoxycarbonyl)-1H-1,2,3-triazol-1-yl]propanoic acid | COC(=O)C1=CN=NN1C(C(=O)O)C | C7H9N3O4
